US09290476B2
N-(4-Bromophenyl)-3-(3-chlorophenyl)propanamide
Triethylamine (1.01 mL, 7.27 mmol) was added slowly to a mixture of 4-bromoaniline (0.500 g, 2.91 mmol), 3-(3-chlorophenyl)propanoic acid (0.643 g, 2.91 mmol), and EDCI (0.669 g, 3.49 mmol) in CH2Cl2 (20 mL). The mixture was stirred at room temperature for 48 hours and saturated aqueous NaHCO3 was added. Water (50 mL) was added followed by additional CH2Cl2. The mixture as stirred for 10 minutes and layers were separated. The CH2Cl2 layer was dried over Na2SO4, then filtered. The solvent was removed under reduced pressure and the residual oil chromatographed (CH2Cl2/EtOAc) to provide the title compound as a white fluffy solid.

reactant | Triethylamine | 7.27 mmol, 1.01 mL | C(C)N(CC)CC | C6H15N
reactant | 4-bromoaniline | 2.91 mmol, 0.500 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | 3-(3-chlorophenyl)propanoic acid | 2.91 mmol, 0.643 g | ClC=1C=C(C=CC1)CCC(=O)O | C9H9ClO2
reactant | EDCI | 3.49 mmol, 0.669 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 50 mL | O | H2O
product | N-(4-Bromophenyl)-3-(3-chlorophenyl)propanamide | BrC1=CC=C(C=C1)NC(CCC1=CC(=CC=C1)Cl)=O | C15H13BrClNO
